US05104869
To a solution of 1.4 g of imidazole in 18 ml of dichloromethane is added 0.90 ml of phenyl dichlorophosphate in 6 ml of dichloromethane. The mixture is stirred for 20 minutes, cooled to 0° C. and a solution of 0.60 g of imidazole, 2.4 ml of N,N-dimethylformamide and 1.6 g of Nα -[(benzyloxy)carbonyl]-L-leucine in 6 ml of tetrahydrofuran added. The mixture is stirred at 0°C. for 40 minutes and then 1.30 g of (S)-2-amino-3-cyclohexyl-(R)-1-(2-furanyl)propan-1-ol added. The mixture is stirred at 0° C. to 25° C. (ice bath allowed to melt) overnight and the solvent removed. The residue is dissolved in 20 ml of ethyl acetate and washed with water, 2N citric acid, sodium bicarbonate solution and dried (MgSO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the pad washed with several volumes of ethyl acetate. The filtrate is concentrated under vacuum to give 2.3 g of N-[N-(benzyloxy)carbonyl-L-leucyl]-(S)-2-amino-3-cyclohexyl-(R)-1-(2-furanyl)propan-1-ol as an oil. The preceding compound (1.85 g) and 1.0 g of ammonium formate in 24 ml of methanol under nitrogen is warmed on a steam bath and then the solution is chilled to 0° C. To the mixture (without stirring) is added (by pipette) 0.96 g of 10% palladium on carbon suspended in 5 ml of ethanol. The mixture is stirred at 0° C. for one hour, diatomaceous earth added and the mixture filtered. The filter pad is washed with methanol and the filtrate evaporated to dryness. The residue is partitioned between ammonium hydroxide and dichloromethane. The organic layer is separated, dried (MgSO4) and the solvent removed to give 1.24 g of a gum. Crystallization from 5 ml of diisopropyl ether gives 0.74 g of N-(L-leucyl)-(S)-2-amino-3-cyclohexyl-(R)-1-(2-furanyl)propan-1-ol as colorless crystals, mp 83°-84° C. [α]D26 -17°±1 (c, 1.031, CH3OH).

reactant | imidazole | 1.4 g | N1C=NC=C1 | C3H4N2
reactant | phenyl dichlorophosphate | 0.90 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | imidazole | 0.60 g | N1C=NC=C1 | C3H4N2
reactant | Nα -[(benzyloxy)carbonyl]-L-leucine | 1.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | (S)-2-amino-3-cyclohexyl-(R)-1-(2-furanyl)propan-1-ol | 1.30 g | N[C@H]([C@@H](O)C=1OC=CC1)CC1CCCCC1 | C13H21NO2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2.4 ml | CN(C=O)C | C3H7NO
product | N-[N-(benzyloxy)carbonyl-L-leucyl]-(S)-2-amino-3-cyclohexyl-(R)-1-(2-furanyl)propan-1-ol | 2.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@@H](O)C=1OC=CC1)CC1CCCCC1 | C27H38N2O5
